US07759337B2
Step 4: 3-Bromo-8-morpholinopyrido[2,3-d]pyridazine
A mixture of 3-bromopyrido[2,3-d]pyridazin-8(7H)-one (0.206 g, 0.91 mmol) and phosphorus oxychloride (5.00 ml, 55 mmol) was heated at 95° C. After 2 h the reaction was cooled to 25° C. and diluted with 30 mL of CHCl3. The solution was cooled to 0° C. and the solid was filtered and washed with CHCl3. The filtrate was concentrated to dryness and azeotroped with toluene (2×). The residue was dissolved in CH3CN and heated with morpholine (0.079 ml, 0.91 mmol) at 190° C. for 15 min in the microwave. The crude material was purified by flash chromatography eluting with 2M NH3 in MeOH:CH2Cl2 (0:1→1:24) to give the title compound as an orange amorphous solid. MS m/z: 295.0 [M+1].

reactant | 3-bromopyrido[2,3-d]pyridazin-8(7H)-one | 0.91 mmol, 0.206 g | BrC1=CC2=C(C(NN=C2)=O)N=C1 | C7H4BrN3O
reactant | phosphorus oxychloride | 55 mmol, 5.00 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | morpholine | 0.91 mmol, 0.079 ml | N1CCOCC1 | C4H9NO
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-8-morpholinopyrido[2,3-d]pyridazine | BrC1=CC=2C(=C(N=NC2)N2CCOCC2)N=C1 | C11H11BrN4O
